US08486968B2
N-(trans-4-Trifluoromethyl-cyclohexyl)-2-{2,6-dichloro-3-[(2,2-dimethyl-propionylamino)-methyl]-phenylamino}-5-[4-trifluoromethyl-piperidinyl]-3-methyl-3H-imidazo[4,5-b]pyridine-6-carboxamide
A mixture of N-(trans-4-trifluoromethyl-cyclohexyl)-6-methylamino-5-amino-2-(4-trifluoromethyl-piperidinyl)-nicotinic acid amide (compound Ic; 130 mg, 0.27 mmol), N-(2,4-dichloro-3-isothiocyanato-benzyl)-2,2-dimethyl-propionamide (98 mg, 0.31 mmol) and DMF (3 mL) is stirred for 3 d. Then DIC (57 μl, 0.32 mmol) is added and it is stirred for 1 d. The crude mixture is poured into water and the precipitate is collected by filtration and purified by prep. HPLC. Yield: 90 mg. Melting Point: 185-186° C. MS m/z: 750 [M+H]+.

reactant | N-(trans-4-trifluoromethyl-cyclohexyl)-6-methylamino-5-amino-2-(4-trifluoromethyl-piperidinyl)-nicotinic acid amide | 0.27 mmol, 130 mg | FC([C@@H]1CC[C@H](CC1)NC(C1=C(N=C(C(=C1)N)NC)N1CCC(CC1)C(F)(F)F)=O)(F)F | C20H27F6N5O
reactant | N-(2,4-dichloro-3-isothiocyanato-benzyl)-2,2-dimethyl-propionamide | 0.31 mmol, 98 mg | ClC1=C(CNC(C(C)(C)C)=O)C=CC(=C1N=C=S)Cl | C13H14Cl2N2OS
reactant | DMF | 3 mL | CN(C)C=O | C3H7NO
reactant | DIC | 0.32 mmol, 57 μl | CC(N=C=NC(C)C)C | C7H14N2
solvent | water | O | H2O
product | N-(trans-4-Trifluoromethyl-cyclohexyl)-2-{2,6-dichloro-3-[(2,2-dimethyl-propionylamino)-methyl]-phenylamino}-5-[4-trifluoromethyl-piperidinyl]-3-methyl-3H-imidazo[4,5-b]pyridine-6-carboxamide | FC([C@@H]1CC[C@H](CC1)NC(=O)C=1C=C2C(=NC1N1CCC(CC1)C(F)(F)F)N(C(=N2)NC2=C(C(=CC=C2Cl)CNC(C(C)(C)C)=O)Cl)C)(F)F | C33H39Cl2F6N7O2
